US09382254B2
Step 2-Hydroxy-Benzoyl Chloride
2-Hydroxy benzoic acid (1 g, 7.2 mmol) is dissolved in DCM (14 mL). To this mixture, thionyl chloride (1.57 mL, 22 mmol) and a catalytic amount of dry DMF are added. The resulting mixture is heated to 60° C. overnight, after which the resulting mixture is evaporated to give the desired product that is used as such.

reactant | 2-Hydroxy benzoic acid | 7.2 mmol, 1 g | OC1=C(C(=O)O)C=CC=C1 | C7H6O3
reactant | thionyl chloride | 22 mmol, 1.57 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | 14 mL | C(Cl)Cl | CH2Cl2
product | 2-Hydroxy-Benzoyl Chloride | OC1=C(C(=O)Cl)C=CC=C1 | C7H5ClO2
